US07557103B2
C. 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(2-methyl-thieno[2,3-b]pyridin-3-yl)-imidazo[1,2-b]pyridazine
382 mg of 3-Bromo-2-methyl-thieno[2,3-b]pyridine (1.67 mmol) is placed into the vial with 2.5 ml of Reiki Zn, suspension in THF (1.75 mmol) and capped and heated at 100° C. for 2 h. The excess Zinc is allowed to settle down and the solution is transferred to the vial containing 200 mg of 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.58 mmol) and 41 mg of PdCl2(pddf) (0.05 mmol) in 3 ml of dry THF. The vial is capped with a Teflon cap and heated at 80° C. for 2 days. The reaction mixture is quenched with sat. NH4Cl and extracted by CH2Cl2, dried over Na2SO4 and evaporated. The crude product is applied onto a silica-gel chromatography column (Hexane:AcOEt=8:1) to give 22 mg of the title compound. Yield 4%. mass spectrum (m/e): 365 (M+1).

reactant | 3-Bromo-2-methyl-thieno[2,3-b]pyridine | 1.67 mmol, 382 mg | BrC1=C(SC2=NC=CC=C21)C | C8H6BrNS
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.58 mmol, 200 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | Zn | [Zn] | Zn
solvent | THF | 1.75 mmol | C1CCOC1 | C4H8O
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(2-methyl-thieno[2,3-b]pyridin-3-yl)-imidazo[1,2-b]pyridazine | 22 mg, Yield 4% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(SC1=NC=CC=C12)C | C21H24N4S
